US06384072B1
To a solution of ethyl {[6-(N,N -diphenylcarbamoyloxy)methyl-5-oxo-6,7,8,9-tetrahydro-5H-benzocyclohepten-1-yl]oxy}acetate (100 mg) in a mixed solvent of THF and EtOH (1:4, 5 ml) were added 20% Pd(OH)2 on carbon and catalytic amount of concentrated hydrochloric acid. The mixture was hydrogenated for 5 hours at 3 atm. After removal of the catalyst by filtration, the filtrate was evaporated. The residue was dissolved in EtOAc, washed with saturated sodium hydrogencarbonate solution, water, and then brine. It was dried over magnesium sulfate and evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-EtOAc 2:1) to give ethyl {[(5SR,6RS)-6-(N,N-diphenylcarbamoyloxy) methyl-5-hydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-1-yl]oxy}acetate (22.0 mg) as an amorphous solid.

reactant | ethyl {[6-(N,N -diphenylcarbamoyloxy)methyl-5-oxo-6,7,8,9-tetrahydro-5H-benzocyclohepten-1-yl]oxy}acetate | 100 mg | C1(=CC=CC=C1)N(C(=O)OCC1C(C2=C(CCC1)C(=CC=C2)OCC(=O)OCC)=O)C2=CC=CC=C2 | C29H29NO6
reactant | THF | C1CCOC1 | C4H8O
reactant | hydrochloric acid | Cl | ClH
catalyst | Pd(OH)2 on carbon | [OH-].[OH-].[Pd+2]
solvent | EtOH | 5 ml | CCO | C2H6O
product | ethyl {[(5SR,6RS)-6-(N,N-diphenylcarbamoyloxy) methyl-5-hydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-1-yl]oxy}acetate | 22.0 mg | C1(=CC=CC=C1)N(C(=O)OCC1C(C2=C(CCC1)C(=CC=C2)OCC(=O)OCC)O)C2=CC=CC=C2 | C29H31NO6
